US06562989B2
1-phenylnaphthalene (Table 11, Entry 3)
Bromobenzene (82 mg, 0.52 mmol) reacted with 1-naphtylboronic acid (110 mg, 0.64 mmol) using 1 mol % of Pd(dba)2/Ph5FcP(t-Bu)2 and KF (90 mg, 1.55 mmol) in THF (2 ml) at room temperature to give the title compound (106 mg, 99%) as a colorless oil: 1H-NMR (400 MHz, CDCl3): δ 7.99-7.91 (m, 3H), 7.60-7.47 (m, 9H). 13C{1H}-NMR (100 MHz, CDCl3): δ 140.71, 140.21, 133.75, 131.57, 130.05, 128.23, 127.60, 127.21, 126.90, 125.99, 125.74, 125.36. GC/MS(EI): m/z 204 (M+). Anal. Calcd for C16H12: C, 94.08; H, 5.92. Found: C, 93.96; H, 6.11.

reactant | Bromobenzene | 0.52 mmol, 82 mg | BrC1=CC=CC=C1 | C6H5Br
reactant | 1-naphtylboronic acid | 0.64 mmol, 110 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | KF | 1.55 mmol, 90 mg | [F-].[K+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-phenylnaphthalene | 106 mg, 99% | C1(=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C16H12
